US06005116
3-(2-Benzoylaminoethoxy)-5-phenylisoxazole (Compound list No.: 1349)
3-(2-Aminoethoxy)-5-phenylisoxazole hydrochloride (240 mg) was suspended in anhydrous tetrahydrofuran (5 ml), and the suspension was cooled to 5° C. Benzoyl chloride (168 mg) and triethylamine (243 mg) were added thereto, followed by stirring of the resulting mixture at the same temperature for 30 minutes. At the end of this time, the reaction mixture was added to ice-cold water (40 ml) and extracted with ethyl acetate (40 ml×2). Then, the organic layer was dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was recrystallized from ethyl acetate to obtain the title compound (276 mg, 90%) as colorless crystals.

reactant | 3-(2-Aminoethoxy)-5-phenylisoxazole hydrochloride | 240 mg | Cl.NCCOC1=NOC(=C1)C1=CC=CC=C1
reactant | Benzoyl chloride | 168 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 243 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(2-Benzoylaminoethoxy)-5-phenylisoxazole | 276 mg, 90% | C(C1=CC=CC=C1)(=O)NCCOC1=NOC(=C1)C1=CC=CC=C1 | C18H16N2O3
